US07678820B2
To a solution of 2-amino-3-nitrobenzonitrile (2 g) in THF (30 ml) were added 4-pentenoyl chloride (2.90 g) and diisopropylethylamine (4.27 ml), followed by stirring at 80° C. for 12 hours. The reaction solution was poured into water, and extracted with EtOAc. The organic layer was dried over anhydrous MgSO4, and then filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform:CH3OH) to obtain N-(4-cyano-2-nitrophenyl)pent-4-enamide (174 mg) as a colorless liquid.

reactant | 2-amino-3-nitrobenzonitrile | 2 g | NC1=C(C#N)C=CC=C1[N+](=O)[O-] | C7H5N3O2
reactant | 4-pentenoyl chloride | 2.90 g | C(CCC=C)(=O)Cl | C5H7ClO
reactant | diisopropylethylamine | 4.27 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | water | O | H2O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | N-(4-cyano-2-nitrophenyl)pent-4-enamide | 174 mg | C(#N)C1=CC(=C(C=C1)NC(CCC=C)=O)[N+](=O)[O-] | C12H11N3O3
